US06933311B2
5-(trifluoromethyl)-2-pyridinecarbonitrile
Copper (I) cyanide (14.1 g) and 2-bromo-5-trifluoromethylpyridine (3.00 g, 13.3 mmol) in dry DMSO (70 mL) were combined and heated at 180° C. for 2 hours, cooled, and poured into NH4OH (3M). The mixture was then extracted with ethyl acetate (3×500 mL), washed with water (1×200 mL), dried (MgSO4), filtered and the filtrate concentrated under reduced pressure to provide the title compound. 1H NMR (DMSO, 300 MHz) δ 8.22 (m, 1H), 8.42 (m, 1H), 9.01 (s, 1H).

reactant | Copper (I) cyanide | 14.1 g | [Cu]C#N
reactant | 2-bromo-5-trifluoromethylpyridine | 13.3 mmol, 3.00 g | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | NH4OH | 3M | [NH4+].[OH-]
solvent | DMSO | 70 mL | CS(=O)C | C2H6OS
product | 5-(trifluoromethyl)-2-pyridinecarbonitrile | FC(C=1C=CC(=NC1)C#N)(F)F | C7H3F3N2
